US08030322B2
Preparation 5: (E)-ethyl 2-(5-chloro-2,3-dihydro-1H-inden-1-ylidene)-2-cyanoacetate (Prep5)
A mixture of 5-chloro-2,3-dihydro-1H-inden-1-one (150 g, 0.9 mol, commercially available) and ethyl cyanoacetate (125 g, 1.1 mol), ammonium acetate (150 g, 1.94 mmol) and glacial acetic acid (500 mL) in benzene (1 L) was refluxed with a Dean Stark water trap for 22 h. Then benzene was partially removed under vacuum, the residue was filtered and the solid obtain was crystallized from ethanol to give the title compound (161 g, y=68%).

reactant | 5-chloro-2,3-dihydro-1H-inden-1-one | ClC=1C=C2CCC(C2=CC1)=O | C9H7ClO
reactant | ethyl cyanoacetate | 1.1 mol, 125 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | ammonium acetate | 1.94 mmol, 150 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
solvent | benzene | 1 L | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | (E)-ethyl 2-(5-chloro-2,3-dihydro-1H-inden-1-ylidene)-2-cyanoacetate | 161 g, 68% | ClC=1C=C2CC/C(/C2=CC1)=C(\C(=O)OCC)/C#N | C14H12ClNO2
